US20010049385A1
4-(2-Chlorophenoxymethyl)-4,5,6,7-tetrahydro-1H-benzimidazole, hydrochloride salt
Using a procedure similar to that described in Example 22 and starting from 4-hydroxymethyl-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole (0.19 g, 0.48 mmol) and 2-chlorophenol (0.1 ml, 1 mmol) 20 mg (14%) of the title compound was obtained as a solid.

reactant | 4-hydroxymethyl-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | 0.48 mmol, 0.19 g | OCC1CCCC=2N(C=NC21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C27H26N2O
reactant | 2-chlorophenol | 1 mmol, 0.1 ml, 20 mg | ClC1=C(C=CC=C1)O | C6H5ClO
product | 4-(2-Chlorophenoxymethyl)-4,5,6,7-tetrahydro-1H-benzimidazole, hydrochloride salt | Cl.ClC1=C(OCC2CCCC=3NC=NC32)C=CC=C1 | InChI=1S/C14H15ClN2O.ClH/c15-11-5-1-2-7-13(11)18-8-10-4-3-6-12-14(10)17-9-16-12;/h1-2,5,7,9-10H,3-4,6,8H2,(H,16,17);1H
